### PR TITLE
feat: SL4 lattice over LaurentSeries and Huang–Shi Theorem 1.2

### PR DESCRIPTION
**Pull request by hanjiadong0**

### CODE REVIEW

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 1]
```diff
@@ -15,6 +15,14 @@ limitations under the License.
...
 
 import FormalConjectures.Util.ProblemImports
+import Mathlib.RingTheory.Polynomial.Basic
+import Mathlib
+import Mathlib.RingTheory.LaurentSeries
+import Mathlib.RingTheory.PowerSeries.Basic
+import Mathlib.RingTheory.HahnSeries.Basic
+import Mathlib.Topology.Algebra.Valued.ValuedField
+import Mathlib.Topology.Algebra.Group.Basic
+import Mathlib.GroupTheory.QuotientGroup.Basic
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: The previous import already covers these

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 2]
```diff
@@ -40,17 +48,116 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
 
 end
 
+/- Let D be the diagonal group of SL_n(R) where n ≥ 3.
+Then any relatively compact D-orbit in SL_n(R)/ SLn(Z) is closed. -/
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 3]
```diff
@@ -40,17 +48,116 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
 
 end
 
+/- Let D be the diagonal group of SL_n(R) where n ≥ 3.
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
/-- Let D be the diagonal group of SL_n(R) where n ≥ 3.
```
and can you please latex it?

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 4]
```diff
@@ -40,17 +48,116 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+
+/- Die natürliche Einbettung `F[t] →+* F((t⁻¹))`:
+    Polynom → Potenzreihe → Laurentreihe. -/
+
+noncomputable def polyToLaurent_F :
+   A F →+* K F :=
+  polyToLaurent (K := F)
+
+
+abbrev SL4 (R : Type*) [CommRing R] :=
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
abbrev SL4 (R : Type*) [CommRing R] :=
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 5]
```diff
@@ -40,17 +48,116 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+
+/-- A = F[t]. -/
+abbrev A := Polynomial F
+
+/-- K = F⸨t⁻¹⸩, the  F. -/
+abbrev K := LaurentSeries F
+
+/- Die natürliche Einbettung `F[t] →+* F((t⁻¹))`:
+    Polynom → Potenzreihe → Laurentreihe. -/
+
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: Englisch bitte :)

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 6]
```diff
@@ -40,17 +48,116 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+Then there exists `z : SL₄(K)/Γ` such that the `D`-orbit of `z` has compact
+closure but is not closed.
+-/
+@[category research open, AMS 11 15 22]
+theorem huang_shi_theorem_1_2
+    (hchar : ringChar (K F) ∈ ({3, 5, 7, 11} : Finset ℕ)) :
+    ∃ z : SL(4, K F) ⧸ Gamma (F),
+      IsCompact (closure (MulAction.orbit (diagonalSubgroup (Fin 4) (K F)) z)) ∧
+      ¬ IsClosed (MulAction.orbit (diagonalSubgroup (Fin 4) (K F)) z) :=
+by
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
      ¬ IsClosed (MulAction.orbit (diagonalSubgroup (Fin 4) (K F)) z) := by
```

**Comment by mo271** [comment]
@hanjiadong0 are you still working on this?

**Comment by hanjiadong0** [comment]
> @hanjiadong0 are you still working on this?

Yes. But since my university, I can only update in 1 month

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 7]
```diff
@@ -40,17 +40,114 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+
+section FunctionFieldDiagonalOrbit
+
+noncomputable section
+
+variable (K : Type*) [Field K]
+
+/-- Natural inclusion `F⟦X⟧ → F⸨X⁻¹⸩` (power series → Laurent series). -/
+noncomputable def powerSeriesToLaurent : PowerSeries K→+* LaurentSeries K :=
+  HahnSeries.ofPowerSeries ℤ K
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: Can you inline this definition?

**Comment by YaelDillies** [comment]
Looks like two of my comments above haven't been addressed yet

**Review by hanjiadong0 — COMMENTED** [review]
resolve conversations

File: .claude/settings.local.json
Comment (YaelDillies) [inline .claude/settings.local.json:1]: This should definitely be a separate PR

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 8]
```diff
@@ -40,17 +40,83 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+    ((HahnSeries.ofPowerSeries ℤ F).comp Polynomial.coeToPowerSeries.ringHom)
+
+/-- Γ = image of `SL₄(F[t])` inside `SL₄(F((t⁻¹)))`. -/
+noncomputable def Gamma : Subgroup (SL4 (K F)) :=
+  (SL4_map_polyToLaurent (F := F)).range
+
+variable (n : Type*) [DecidableEq n] [Fintype n] (R : Type*) [CommRing R]
+
+instance : TopologicalSpace (SpecialLinearGroup n (K F)) :=
+  inferInstanceAs (TopologicalSpace { A : Matrix n n (K F) // A.det = 1 })
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: Do you really need this instance? It already seems to exist here: https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Instances/Matrix.html#Matrix.SpecialLinearGroup.instTopologicalSpace
```suggestion
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 9]
```diff
@@ -40,17 +40,83 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+variable (F : Type u) [Field F] [Fintype F]
+
+/-- A = F[t]. -/
+abbrev A := Polynomial F
+
+/-- `K = F⸨t⁻¹⸩`, the field of formal Laurent series over `F`. -/
+abbrev K := LaurentSeries F
+
+abbrev SL4 (R : Type*) [CommRing R] :=
+  Matrix.SpecialLinearGroup (Fin 4) R
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion

local notation "SL" => SpecialLinearGroup
```
is more appropriate

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 10]
```diff
@@ -40,17 +40,83 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+
+/-- Group hom `SL₄(F[t]) → SL₄(F((t⁻¹)))` induced by the natural inclusion `F[t] →+* F((t⁻¹))`. -/
+noncomputable def SL4_map_polyToLaurent :
+    SL4 (A F) →* SL4 (K F) :=
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
    SL 4 (A F) →* SL 4 (K F) :=
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 11]
```diff
@@ -40,17 +40,83 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+
+section FunctionFieldDiagonalOrbit
+
+variable (F : Type u) [Field F] [Fintype F]
+
+/-- A = F[t]. -/
+abbrev A := Polynomial F
+
+/-- `K = F⸨t⁻¹⸩`, the field of formal Laurent series over `F`. -/
+abbrev K := LaurentSeries F
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: Instead of introducing obscure one-letter abbreviations, can you use the well-established notation that mathlib provides? If you do `open scoped Polynomial LaurentSeries`, then you can write `F[X]` and `F⸨X⸩` for these respectively

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 12]
```diff
@@ -40,17 +40,83 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+
+abbrev SL4 (R : Type*) [CommRing R] :=
+  Matrix.SpecialLinearGroup (Fin 4) R
+
+/-- Group hom `SL₄(F[t]) → SL₄(F((t⁻¹)))` induced by the natural inclusion `F[t] →+* F((t⁻¹))`. -/
+noncomputable def SL4_map_polyToLaurent :
+    SL4 (A F) →* SL4 (K F) :=
+  Matrix.SpecialLinearGroup.map
+    ((HahnSeries.ofPowerSeries ℤ F).comp Polynomial.coeToPowerSeries.ringHom)
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: I would suggest you instead define
```suggestion
/-- The natural inclusion `F[t] →+* F((t⁻¹))`. -/
noncomputable def polyToLaurent : A F →+* K F :=
  (HahnSeries.ofPowerSeries ℤ F).comp Polynomial.coeToPowerSeries.ringHom
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 13]
```diff
@@ -40,17 +40,83 @@ instance : TopologicalSpace (SpecialLinearGroup n ℝ) :=
...
+Let `F` be a finite field of characteristic `p ∈ {3, 5, 7, 11}`, and set
+`K = F((t⁻¹))`, `A = F[t]`. Let
+
+* `D` be the diagonal subgroup of `SL₄(K)`,
+* `Γ = SL₄(A)` the lattice subgroup embedded into `SL₄(K)` via the natural inclusion `A →+* K`.
+
+Then there exists `z : SL₄(K)/Γ` such that the `D`-orbit of `z` has compact
+closure but is not closed.
+-/
+@[category research open, AMS 11 15 22]
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: Is it a theorem or open?

Comment (hanjiadong0) [reply FormalConjectures/Arxiv/2504.17644/Margulis.lean]: It is a theorem, but I did not fourmulate the whole proof.

Comment (YaelDillies) [reply FormalConjectures/Arxiv/2504.17644/Margulis.lean]: Then please use `category research solved` instead

File: FormalConjectures/Arxiv/2504.17644/Conjecture.py
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Conjecture.py:1]: What is this empty file doing here?

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 14]
```diff
@@ -27,30 +27,79 @@ by *Qianlin Huang, Ronggang Shi*
...
-Let `D` be the diagonal group of `SL_n(R)` where `n ≥ 3`. Then any relatively compact `D`-orbit in
-`SL_n(R)/ SLn(Z)` is closed. -/
+/-- Let `D` be the diagonal group of `SL_n(ℝ)` where n ≥ 3.
+Then any relatively compact `D`-orbit in `SL_n(ℝ) / SL_n(ℤ)` is closed. -/
 @[category research open, AMS 11 15 22]
 theorem conjecture_1_1 {n : ℕ} (hn : 3 ≤ n)
     (g : SL(n, ℝ) ⧸ Subgroup.map (map (Int.castRingHom ℝ)) ⊤)
     (hg : IsCompact <| closure (MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g)) :
-    IsClosed <| MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g := by
+    IsClosed <| MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g :=
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
    IsClosed <| MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g := by
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 15]
```diff
@@ -27,30 +27,79 @@ by *Qianlin Huang, Ronggang Shi*
...
+-/
+
+universe u
+
+section FunctionFieldDiagonalOrbit
+
+variable (F : Type u) [Field F] [Fintype F]
+
+/-- The natural inclusion `F[t] →+* F((t⁻¹))`. -/
+noncomputable def polyToLaurent :F[X] →+* F⸨X⸩ :=
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
noncomputable def polyToLaurent : F[X] →+* F⸨X⸩ :=
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 16]
```diff
@@ -27,30 +27,79 @@ by *Qianlin Huang, Ronggang Shi*
...
+  (HahnSeries.ofPowerSeries ℤ F).comp Polynomial.coeToPowerSeries.ringHom
+
+
+/-- Group hom `SL₄(F[t]) → SL₄(F((t⁻¹)))` induced by the natural inclusion `F[t] →+* F((t⁻¹))`. -/
+noncomputable def SL4_map_polyToLaurent :
+    SL(4, F[X]) →* SL(4, F⸨X⸩) :=
+  Matrix.SpecialLinearGroup.map
+    (polyToLaurent F)
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]: Can you inline this definition?

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 17]
```diff
@@ -27,30 +27,79 @@ by *Qianlin Huang, Ronggang Shi*
...
+
+* `D` be the diagonal subgroup of `SL₄(K)`,
+* `Γ = SL₄(A)` the lattice subgroup embedded into `SL₄(K)` via the natural inclusion `A →+* K`.
+
+Then there exists `z : SL₄(K)/Γ` such that the `D`-orbit of `z` has compact
+closure but is not closed.
+-/
+@[category research solved, AMS 11 15 22]
+theorem huang_shi_theorem_1_2
+    (hchar : ringChar (F⸨X⸩) ∈ ({3, 5, 7, 11} : Finset ℕ)) :
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
    (hchar : ringChar F ∈ ({3, 5, 7, 11} : Finset ℕ)) :
```
seems more faithful to the docstring

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 18]
```diff
@@ -27,30 +27,79 @@ by *Qianlin Huang, Ronggang Shi*
...
+      IsCompact (closure (MulAction.orbit (diagonalSubgroup (Fin 4) (F⸨X⸩)) z)) ∧
+      ¬ IsClosed (MulAction.orbit (diagonalSubgroup (Fin 4) (F⸨X⸩)) z) := by
+  -- Placeholder: a Lean formalization would require a full development
+  -- of the Huang–Shi paper in mathlib.
+  sorry
+
+end FunctionFieldDiagonalOrbit
+
 
 end MatrixGroupConjecture
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
end MatrixGroupConjecture
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 19]
```diff
@@ -27,30 +27,71 @@ by *Qianlin Huang, Ronggang Shi*
...
+* `D` be the diagonal subgroup of `SL₄(K)`,
+* `Γ = SL₄(A)` the lattice subgroup embedded into `SL₄(K)` via the natural inclusion `A →+* K`.
+
+Then there exists `z : SL₄(K)/Γ` such that the `D`-orbit of `z` has compact
+closure but is not closed.
+-/
+@[category research solved, AMS 11 15 22]
+theorem huang_shi_theorem_1_2
+    (hchar : ringChar F ∈ ({3, 5, 7, 11} : Finset ℕ)) :
+    ∃ z : SL(4, F⸨X⸩) ⧸ (  Matrix.SpecialLinearGroup.map
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean:87]:
```suggestion
    ∃ z : SL(4, F⸨X⸩) ⧸ (SpecialLinearGroup.map
```
with `open Matrix` towards the top of the file if it isn't already there

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 20]
```diff
@@ -27,30 +27,71 @@ by *Qianlin Huang, Ronggang Shi*
...
+    (polyToLaurent F)).range,
+      IsCompact (closure (MulAction.orbit (diagonalSubgroup (Fin 4) (F⸨X⸩)) z)) ∧
+      ¬ IsClosed (MulAction.orbit (diagonalSubgroup (Fin 4) (F⸨X⸩)) z) := by
```
Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean:90]: Similarly,
```suggestion
      IsCompact (closure (orbit (diagonalSubgroup (Fin 4) (F⸨X⸩)) z)) ∧
      ¬ IsClosed (orbit (diagonalSubgroup (Fin 4) (F⸨X⸩)) z) := by
```

Comment (YaelDillies) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean:90]:
```suggestion
      IsCompact (closure (MulAction.orbit (diagonalSubgroup (Fin 4) F⸨X⸩) z)) ∧
      ¬ IsClosed (MulAction.orbit (diagonalSubgroup (Fin 4) F⸨X⸩) z) := by
```
or does it not work?

**Review by YaelDillies — APPROVED** [review]
Thanks!

**Comment by YaelDillies** [comment]
The PR will be merged as soon as you sign the Google CLA.

**Comment by mo271** [comment]
@hanjiadong0 the CLA is only failing because some of the commits contain <no****y​@anthropic.com> Claude as a co-author. 

One can rewrite history with `git --amend` to change this or squash the commits into one with only you as an author (@YaelDillies as a co-author). 

Happy to do it for you if this causes problems!

**Comment by hanjiadong0** [comment]
change the local author and forch push it

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 21]
```diff
@@ -27,30 +27,71 @@ by *Qianlin Huang, Ronggang Shi*
...
-Let `D` be the diagonal group of `SL_n(R)` where `n ≥ 3`. Then any relatively compact `D`-orbit in
-`SL_n(R)/ SLn(Z)` is closed. -/
+/-- Let `D` be the diagonal group of `SL_n(ℝ)` where n ≥ 3.
+Then any relatively compact `D`-orbit in `SL_n(ℝ) / SL_n(ℤ)` is closed. -/
 @[category research open, AMS 11 15 22]
 theorem conjecture_1_1 {n : ℕ} (hn : 3 ≤ n)
     (g : SL(n, ℝ) ⧸ Subgroup.map (map (Int.castRingHom ℝ)) ⊤)
     (hg : IsCompact <| closure (MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g)) :
-    IsClosed <| MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g := by
+    IsClosed <| MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g :=
```
Comment (mo271) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
    IsClosed <| MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g := by
```

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 22]
```diff
@@ -27,30 +27,71 @@ by *Qianlin Huang, Ronggang Shi*
...
+
+section FunctionFieldDiagonalOrbit
+
+variable (F : Type u) [Field F] [Fintype F]
+
+/-- The natural inclusion `F[t] →+* F((t⁻¹))`. -/
+noncomputable def polyToLaurent : F[X] →+* F⸨X⸩ :=
+  (HahnSeries.ofPowerSeries ℤ F).comp Polynomial.coeToPowerSeries.ringHom
+
+/-- **Huang–Shi, Theorem 1.2 (Lean statement).**
```
Comment (mo271) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
/-- **Huang–Shi, Theorem 1.2**
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM, to minor comments

File: FormalConjectures/Arxiv/2504.17644/Margulis.lean [hunk 23]
```diff
@@ -27,32 +27,71 @@ by *Qianlin Huang, Ronggang Shi*
...
 theorem conjecture_1_1 {n : ℕ} (hn : 3 ≤ n)
     (g : SL(n, ℝ) ⧸ Subgroup.map (map (Int.castRingHom ℝ)) ⊤)
     (hg : IsCompact <| closure (MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g)) :
     IsClosed <| MulAction.orbit (diagonalSubgroup (Fin n) ℝ) g := by
   sorry
 
--- TODO(Paul-Lez): add main theorem from the paper.
+end
+
+ /-!
```
Comment (mo271) [inline FormalConjectures/Arxiv/2504.17644/Margulis.lean]:
```suggestion
 /-
```
